US06127374
Benzyl alcohol (2.22 g, 20 mmol) was added to a slurry of hexane-washed NaH (60% oil suspension, 820 mg, 20.5 mmol) in DMSO (20 mL), stirred under nitrogen at 20° C., producing strong gas evolution. After 30 minutes, 1-fluoro-4-nitrobenzene (2.826 g, 20 mmol) was added dropwise to the light grey slurry. The reaction mixture became a bright orange red and quite strongly exothermic, and a lot of gas was evolved. After 2 hours, the reaction mixture was poured onto ice-water (200 mL), and the solid was collected by Buchner filtration, rinsed with water (2×50 mL), and air dried to give 1-benzyloxy-4-nitrobenzene (4.188 g, 91.3%) as canary yellow crystals. 1H NMR (DMSO-d6): δ8.16 (2 H, AA'BB', J=9.3 Hz), 7.47 (2 H, d, J=7.1 Hz), 7.41 (2 H, t, J=7.3 Hz), 7.36 (1 H, t, J=7.1 Hz), 7.23 (2 H, AA'BB', J=9.1 Hz), 5.26 (2 H, s).

reactant | Benzyl alcohol | 20 mmol, 2.22 g | C(C1=CC=CC=C1)O | C7H8O
reactant | hexane | CCCCCC | C6H14
reactant | NaH | 20.5 mmol, 820 mg | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 20 mmol, 2.826 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 1-benzyloxy-4-nitrobenzene | 4.188 g, 91.3% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO3
